data/mechanism_extracts/Synthesis/10.1055_s-0043-1775373.json
{"doi": "10.1055_s-0043-1775373", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical selenylation/cyclization of ortho-hydroxyaryl alkenes with diselenides to give selenyl-dihydrobenzofurans (and a chromane) bearing a tetrasubstituted carbon center", "mechanism_family": ["radical_anodic", "cation_initiated", "direct_SET"], "electrochemical_role": "Anodic oxidation of the diaryl diselenide (PhSeSePh, 2a) to a radical cation that fragments into PhSe+ (cation B) and PhSe• (radical C); the PhSe+ engages the alkene as a seleniranium electrophile", "key_intermediates": [{"name": "diselenide radical cation A ([PhSeSePh]•+)", "smiles": null, "role": "transient"}, {"name": "phenylselenium cation B (PhSe+)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl radical C (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "seleniranium intermediate D (from PhSe+ + alkene 1a)", "smiles": null, "role": "reactive"}, {"name": "β-selenyl carbon radical E (from PhSe• addition to alkene)", "smiles": null, "role": "transient"}], "electron_flow": "The anode oxidizes PhSeSePh (lower oxidation potential than 1a per CV) to a radical cation that splits into PhSe+ (B) and PhSe• (C); B forms a seleniranium with the alkene (D), and intramolecular phenol attack with loss of H+ delivers the dihydrobenzofuran 3a. In parallel, PhSe• adds to the alkene to give radical E, which is anodically oxidized to D (or PhSe• is oxidized at the anode to regenerate B), while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "PhSeCl (stoichiometric, no current)", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Delivers 3a in 91% yield without electricity, supporting a seleniranium (PhSe+) intermediate"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "No effect on yield (3a still 84%), indicating free carbon radicals are not on the dominant pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "stoichiometric_intermediate", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors favor Path 1 (anodic oxidation of diselenide to PhSe+, then seleniranium cyclization), consistent with PhSeCl control and TEMPO insensitivity. Two alternative pathways are proposed: Path 2 — PhSe• addition to alkene forming radical E, then anodic oxidation to seleniranium D; Path 3 — anodic oxidation of PhSe• to PhSe+ to re-enter the cationic cycle, with cathodic H2 evolution closing the redox balance."}
